US04010202
Using 1.91 parts of 5 % palladium-on-carbon, 1.89 parts of 2-cyclohexylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide in 50 volume parts of water is subjected to catalytic reduction at ordinary temperature and pressure. When a stoichiometric amount of hydrogen has been absorbed, the reaction mixture is filtered to remove the catalyst and the filtrate is freeze-dried. The residue is recrystallized from a mixture of ethanol and ethyl acetate, whereby 2-cyclohexylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide is obtained as colorless crystals. Yield 1.38 parts; melting point: 230°-236° C (decomposition).

reactant | 2-cyclohexylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.C1(CCCCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)=O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | water | O | H2O
product | 2-cyclohexylamino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.C1(CCCCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)O | InChI=1S/C16H23NO3.BrH/c18-14-9-7-11-12(16(14)20)6-8-13(15(11)19)17-10-4-2-1-3-5-10;/h7,9-10,13,15,17-20H,1-6,8H2;1H
